US08791129B2
2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl dimethylcarbamate (“A114”)
20 μl of dimethylcarbamoyl chloride are added to a solution of 100 mg of [2-amino-6-(4,5-difluoro-2-hydroxymethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone and 2 mg of 4-(dimethylamino)pyridine (DMAP) in 5 ml of dimethylformamide (DMF), and the mixture is heated at 80° C. for 18 h. After 18 h, 10 ml of methanol are added, the mixture is evaporated to dryness in vacuo and purified by normal-phase chromatography.

reactant | dimethylcarbamoyl chloride | 20 μl | CN(C(=O)Cl)C | C3H6ClNO
reactant | [2-amino-6-(4,5-difluoro-2-hydroxymethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 100 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)F)F)CO | C24H18F2N4O2
reactant | methanol | 10 ml | CO | CH4O
catalyst | 4-(dimethylamino)pyridine | 2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl dimethylcarbamate | CN(C(OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1)=O)C | C27H23F2N5O3
